### PR TITLE
[Merged by Bors] - feat: affine monoids

### PR DESCRIPTION
**Pull request by YaelDillies**
Define affine monoids as finitely generated cancellative torsion-free commutative monoids and prove a few of their basic properties:
* An affine monoid with no non-trivial unit is generated by its irreducible elements
* An affine monoid embeds into `ℤⁿ` for some `n`
* Let `M` be an affine monoid. Then `M` has unique sums. In particular, if `R` is a domain, then so is `R[M]`.

From Toric

Co-authored-by: Patrick Luo <m3hgu5t4@gmail.com>

---

- [x] depends on: #24913
- [x] depends on: #24914

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+      (fun _ hx _ ↦ hx) (by simp) (fun a b _ _ ha hb h ↦ ?_) hx.1 hx.2
+  obtain rfl | rfl := h.eq_one_or_eq_one <;> simp_all
+
+/-- Irreducible elements lie in all sets generating a salient monoid. -/
+@[to_additive "Irreducible elements lie in all sets generating a salient monoid."]
+lemma irreducible_subset_of_submonoidClosure_eq_top (hS : Submonoid.closure S = ⊤) :
+    {p | Irreducible p} ⊆ S := by
+  simpa [hS] using irreducible_mem_submonoidClosure_subset (S := S)
+
+/-- A finitely generated salient submonoid has finitely many irreducible elements. -/
```
Comment (smorel394) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]: I'm not sure what is needed here exactly, but the Lean statement does not say the same as the informal description. The Lean statement says "If M is a salient monoid, then any finitely generated submonoid S of M contains finitely many element that are irreducible in M." (The informal description only assume that S is salient and is ambiguous on where the elements should be irreducible, M or S - these are not equivalent conditions.) Note that both the Lean statement and the informal statement are true, and as far as I can tell the statement is only used for S the top submonoid, where both statements are equivalent. However, informal descriptions should match their Lean statements.

Side note: Is "salient" defined anywhere? It is used in the informal descriptions (not consistently), but does not seem to correspond to a Lean definition.

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+@[to_additive "A finitely generated salient monoid has finitely many irreducible elements."]
+lemma finite_irreducible : {p : M | Irreducible p}.Finite := by
+  simpa using Monoid.FG.fg_top.finite_irreducible_mem_submonoidClosure
+
+end CommMonoid
+
+section CancelCommMonoid
+variable [CancelCommMonoid M] [Monoid.FG M] [Subsingleton Mˣ] {S : Set M}
+
+/-- A finitely generated cancellative submonoid with a single unit is generated by
```
Comment (smorel394) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]: The hypothesis that `M` is salient (= has a single unit) is not needed here. I wrote a very rough proof of this which is an easy modification of the current proof, it's ugly and I `sorry` a couple of obvious statements, but it's just to convince you.


```lean


/-- A finitely generated cancellative submonoid is generated by its irreducible elements. -/
@[to_additive (attr := simp)
"A finitely generated cancellative submonoid with a single unit is generated by
its (finitely many) irreducible elements."]
lemma Submonoid.closure_irreducible : Submonoid.closure {p : M | Irreducible p} = ⊤ := by
  classical
  obtain ⟨S, hSgen, hSmax⟩ := Submonoid.exists_minimal_closure_eq_top M
  suffices h : S.toSet ⊆ {p : M | Irreducible p} by
    sorry
  by_contra hrirred
  simp only [irreducible_iff, Set.subset_setOf, not_and, not_forall, Classical.not_imp,
    not_or] at hrirred
  obtain ⟨r, hrS, h⟩ := hrirred
  have hr₀ : ¬ IsUnit r := by
    by_contra hu
    have : Submonoid.closure (S \ {r}).toSet = ⊤ := sorry
    have := hSmax (y := S \ {r}) this (by simp)
    exact (Finset.notMem_sdiff_of_mem_right (Finset.mem_singleton_self r)) (this hrS)
  obtain ⟨a, b, hr, ha, hb⟩ := h hr₀
  obtain ⟨m, -, hm⟩ := Submonoid.mem_closure_finset (x := a).mp (by rw [hSgen]; trivial)
  obtain ⟨n, -, hn⟩ := Submonoid.mem_closure_finset (x := b).mp (by rw [hSgen]; trivial)
  replace hm : a = r ^ m r * ∏ s ∈ S \ {r}, s ^ m s := by
    rw [← hm, ← Finset.prod_sdiff <| Finset.singleton_subset_iff.2 hrS, Finset.prod_singleton,
      mul_comm]
  replace hn : b = r ^ n r * ∏ s ∈ S \ {r}, s ^ n s := by
    rw [← hn, ← Finset.prod_sdiff <| Finset.singleton_subset_iff.2 hrS, Finset.prod_singleton,
      mul_comm]
  have hr' : r = r ^ (m r + n r) * (∏ s ∈ S \ {r}, s ^ m s) * ∏ s ∈ S \ {r}, s ^ n s := by
    rwa [pow_add, mul_assoc, mul_assoc, ← mul_assoc (r ^ n r), mul_comm (r ^ n r) _, mul_assoc,
      ← hn, ← mul_assoc, ← hm]
  match hr : m r + n r with
  | 0 =>
    have : ({r} : Set M) ⊆ closure (S \ {r}) := by
      simp only [hr, pow_zero, one_mul] at hr'
      rw [hr', Set.singleton_subset_iff]
      refine mul_mem ?_ ?_ <;> refine prod_mem _ fun s hs ↦ pow_mem (subset_closure ?_) _ <;>
        rw [← hr'] <;> simpa using hs
    have : (closure (↑S \ {r}).toSet)= ⊤ := by
      rw [← hSgen, Finset.coe_sdiff, Submonoid.closure_sdiff_eq_closure]
      simp [this]
    specialize hSmax (y := S \ {r}) this Finset.sdiff_subset
    simpa using hSmax hrS
  | 1 =>
    simp only [hr, pow_one, mul_assoc, eq_comm (a := r), mul_eq_left, LeftCancelMonoid.mul_eq_one,
      Finset.prod_eq_one_iff] at hr'
    obtain h | h : m r = 0 ∨ n r = 0 := by omega
    · simp [h] at hm
      rw [← hm] at hr'
      apply ha
      apply (isUnit_iff_exists (x := a)).mpr
      use ∏ s ∈ S \ {r}, s ^ n s
      simp [hr']
      rw [mul_comm] at hr'
      exact hr'
    · sorry -- same thing exchanging `a` and `b`
  | N + 2 =>
    simp [eq_comm (a := (1 : M)), hr, pow_add, mul_assoc, mul_left_comm] at hr'
    apply hr₀
    apply (isUnit_iff_exists (x := r)).mpr
    use (r ^ N * ((∏ s ∈ S \ {r}, s ^ m s) * ∏ s ∈ S \ {r}, s ^ n s))
    simp [hr']
    rw [mul_comm] at hr'
    exact hr'
 ```

Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: I will read your draft proof carefully, but isn't the result obviously false for `Int`, since it has no irreducible element?

Comment (smorel394) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Ah, I found the mistake in my "proof", it's in the line
```
    have : Submonoid.closure (S \ {r}).toSet = ⊤ := sorry
```
I thought that `S \ {r}` would "obviously" generated the monoid since `r` is a unit, but it won't work. 
Sorry, got carried away.

Comment (smorel394) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Another comment on this proof, this time about style: since it's a bit long and some nontrivial stuff is happening, maybe you could add comments explaining what is happening in the proof?

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: "`M` is salient" means `Subsingleton Mˣ`. I do believe we could introduce an `abbrev` here, as it is an interesting property that shows up in various places

Comment (smorel394) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Yes, I know what it means. My point was that it is not explained in the file, and that sometimes "monoid with no non-trivial unit" is used instead of "salient monoid".

Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Can you tell me whether it's a well-known informal concept and how widely used it is compared to (the mouthful) "monoid with no non-trivial unit". @b-mehta previously complained that he had never heard of salient monoids, but it looks like you have a different experience. I would be interested to know.

If you say it's used widely enough, I can PR `abbrev IsSalient (M : Type*) [Monoid M] := Subsingleton Mˣ` or even
```
class IsSalient (M : Type*) [Monoid M] where
  eq_one_of_isUnit {x : M} : IsUnit x → x = 1
```
which carries the more useful characterisation

Comment (b-mehta) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Indeed in the past my contention was that "salient monoid" doesn't appear to be widely used in the literature (in particular not even in the source that you yourself Yaël claimed it was used in!), and therefore shouldn't be used in mathlib documentation without further explanation, for example because a search for "salient monoid" gives no results online which match the notion you give above, except for a reference to the Toric project 😄. Further, "salient" already has an informal meaning, so there's lots of scope for confusion if the file doesn't explain what it means.

Comment (smorel394) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: I had never seen the expression "salient monoid". However, I learned some log geometry, and some of the references are in French, so I had encountered the expression "monoïde saillant" and I was able to guess that "salient" was supposed to be a translation of "saillant". In the papers about log schemes that I know, either the condition `Subsingleton Mˣ` is spelled out, or the monoids satisfying it are called "sharp".
Note that searching for "sharp monoid" will give you many relevant results!

So if you use the word "salient" in the informal descriptions, you need a definition. It is definitely nonstandard.

Comment (smorel394) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: The notion is quite useful in log geometry. The other notion that you meet all the time there is "fine", which means "finitely generated and injects into its fraction group". (And of course "saturated", but I'm guessing you already have that.)

Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: > a search for "salient monoid" gives no results online which match the notion you give above, except for a reference to the Toric project 😄

THE standard reference 😇

I have opened #26110 to define `IsSharpMonoid`

File: Mathlib/Algebra/AffineMonoid/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,26 @@
...
+public import Mathlib.GroupTheory.Finiteness
+
+/-!
+# Affine monoids
+
+This file defines affine monoids as finitely generated cancellative torsion-free commutative
+monoids.
+-/
+
+public section
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Basic.lean:17]: When do you need `@[expose]` and when do you not?

File: Mathlib/Algebra/AffineMonoid/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,26 @@
...
+
+/-- An affine monoid is a finitely generated cancellative torsion-free commutative monoid. -/
+class abbrev IsAffineAddMonoid (M : Type*) [AddCommMonoid M] :=
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Basic.lean]:
```suggestion
class abbrev IsAffineAddMonoid (M : Type*) [AddCommMonoid M] : Prop :=
```

File: Mathlib/Algebra/AffineMonoid/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,26 @@
...
+  IsCancelAdd M, AddMonoid.FG M, IsAddTorsionFree M
+
+/-- An affine monoid is a finitely generated cancellative torsion-free commutative monoid. -/
+@[to_additive]
+class abbrev IsAffineMonoid (M : Type*) [CommMonoid M] :=
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Basic.lean]:
```suggestion
class abbrev IsAffineMonoid (M : Type*) [CommMonoid M] : Prop :=
```

File: Mathlib/Algebra/AffineMonoid/Embedding.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+variable {M : Type*} [AddCancelCommMonoid M] [AddMonoid.FG M] [IsAddTorsionFree M]
+
+namespace AffineAddMonoid
+
+variable (M) in
+/-- The dimension of an affine monoid `M`, namely the minimum `n` for which `M` embeds into `ℤⁿ`. -/
+noncomputable abbrev dim := Module.finrank ℤ <| GrothendieckAddGroup M
+
+variable (M) in
+/-- An embedding of an affine monoid `M` into `ℤ ^ dim M`. -/
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Embedding.lean]:
```suggestion
/-- An arbitrary embedding of an affine monoid `M` into `ℤ ^ dim M`. -/
```

File: Mathlib/Algebra/AffineMonoid/UniqueSums.lean [hunk 7]
```diff
@@ -0,0 +1,32 @@
...
+
+In this file we show that finitely generated cancellative torsion-free commutative monoids have
+unique sums. This is a direct corollary of them embedding into `ℤⁿ` for some `n`.
+-/
+
+public section
+
+variable {M : Type*}
+
+instance AffineAddMonoid.to_twoUniqueSums [AddCancelCommMonoid M] [AddMonoid.FG M]
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/UniqueSums.lean]:
```suggestion
instance (priority := low) AffineAddMonoid.to_twoUniqueSums [AddCancelCommMonoid M] [AddMonoid.FG M]
```

File: Mathlib/Algebra/AffineMonoid/UniqueSums.lean [hunk 8]
```diff
@@ -0,0 +1,32 @@
...
+    [IsAddTorsionFree M] : TwoUniqueSums M :=
+  .of_injective_addHom (embedding M).toAddHom embedding_injective inferInstance
+
+@[to_additive existing AffineAddMonoid.to_twoUniqueSums]
+instance AffineMonoid.to_twoUniqueProds [CancelCommMonoid M] [Monoid.FG M] [IsMulTorsionFree M] :
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/UniqueSums.lean]:
```suggestion
instance (priority := low) AffineMonoid.to_twoUniqueProds [CancelCommMonoid M] [Monoid.FG M] [IsMulTorsionFree M] :
```

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 9]
```diff
@@ -0,0 +1,129 @@
...
+lemma irreducible_subset_of_submonoidClosure_eq_top (hS : Submonoid.closure S = ⊤) :
+    {p | Irreducible p} ⊆ S := by
+  simpa [hS] using irreducible_mem_submonoidClosure_subset (S := S)
+
+/-- A finitely generated submonoid of a salient monoid has finitely many irreducible elements. -/
+@[to_additive
+/-- A finitely generated salient submonoid of a salient monoid has finitely many irreducible
+elements. -/]
+lemma Submonoid.FG.finite_irreducible_mem_submonoidClosure {S : Submonoid M} :
+    S.FG → {p ∈ S | Irreducible p}.Finite := by
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]:
```suggestion
lemma Submonoid.FG.finite_irreducible_mem_submonoidClosure {S : Submonoid M} (hS : S.FG) :
    {p ∈ S | Irreducible p}.Finite := by
```

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 10]
```diff
@@ -0,0 +1,129 @@
...
+
+section CancelCommMonoid
+variable [CancelCommMonoid M] [Monoid.FG M] [Subsingleton Mˣ] {S : Set M}
+
+/-- A finitely generated cancellative salient monoid is generated by its (finitely many) irreducible
+ elements. -/
+@[to_additive (attr := simp)
+/-- A finitely generated cancellative salient monoid is generated by its (finitely many) irreducible
+elements. -/]
+lemma Submonoid.closure_irreducible : Submonoid.closure {p : M | Irreducible p} = ⊤ := by
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Do you also need the submonoid version? That is `Submonoid.closure {p ∈ S | Irreducible p} = S`.

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 11]
```diff
@@ -0,0 +1,129 @@
...
+  -- Else find `a`, `b` non-units such that `a * b = r`.
+  simp only [irreducible_iff, Set.mem_setOf_eq, not_and, not_forall, not_or] at hrirred
+  obtain ⟨a, b, hr, ha, hb⟩ := hrirred <| by simpa
+  -- Write `a = ∏ s ∈ S, s ^ m s`, `b = ∏ s ∈ S, s ^ n s` for some coefficients `m`, `n`.
+  obtain ⟨m, -, hm⟩ := Submonoid.mem_closure_finset (x := a).mp (by rw [hSgen]; trivial)
+  obtain ⟨n, -, hn⟩ := Submonoid.mem_closure_finset (x := b).mp (by rw [hSgen]; trivial)
+  -- Single out the `r` term in the two products.
+  replace hm : a = r ^ m r * ∏ s ∈ S \ {r}, s ^ m s := by
+    rw [← hm, ← Finset.prod_sdiff <| Finset.singleton_subset_iff.2 hrS, Finset.prod_singleton,
+      mul_comm]
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Should there be a single lemma doing this? (i.e. `Finset.prod_sdiff_singleton`)

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: So should you replace "salient monoid" with "sharp monoid" throughout the docstrings?

File: Mathlib/Algebra/AffineMonoid/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Basic.lean:17]: `@[expose]` only applies to `def`s. Whether you have it or not depends on if you think your `def` should be unfoldable (basically what was previously `irreducible_def`). Here (or I guess the next file along) I am very happy for the body `embedding` to be private, since the embedding is arbitrary.

Comment (erdOne) [reply Mathlib/Algebra/AffineMonoid/Basic.lean:17]: Does this apply to abbrevs like `AffineAddMonoid.dim`?

Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Basic.lean:17]: No, `abbrev`s always expose their body

Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Basic.lean]: No, `abbrev`s always expose their body

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: This isn't true. What's true instead is `Submonoid.closure {p ∈ S | IrreducibleIn p S} = S` but we don't have `IrreducibleIn` so I doubt we should bother with this statement for now.

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Eh, I don't really care here

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 12]
```diff
@@ -0,0 +1,128 @@
...
+-/
+
+public section
+
+variable {M : Type*}
+
+section CommMonoid
+variable [CommMonoid M] [Subsingleton Mˣ] {S : Set M}
+
+/-- Any set `S` inside a salient monoid contains the irreducible elements of the submonoid it
```
Comment (b-mehta) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Don't forget to remove mentions of "salient"!

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: I still think using "sharp monoid" in docstrings is unhelpful particularly since, as Sophie says earlier, it's only used half the time in log geometry, and basically not anywhere else. Let's not create the pattern of using descriptions in mathlib which are this niche without a very good reason to do so. For example, mathlib docstrings define what "monoid" means, which is clearly more standard than "sharp monoid"!

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Friendly reminder: This is also unaddressed yet.

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: I think it is fine as long as there is an explanation in the module docstring e.g. "monoids with no non-trivial unit (which we will refer to as sharp monoids in this file)". But the current state is a mix of sharp and salient which is strictly worse than any of these suggestions.

Comment (b-mehta) [reply Mathlib/Algebra/AffineMonoid/Irreducible.lean]: Yup, that kind of explanation would be fine too. I think it's still more cognitive load on the reader than necessary, but it's at least coherent!

File: Mathlib/Algebra/AffineMonoid/Irreducible.lean [hunk 13]
```diff
@@ -0,0 +1,131 @@
...
+        rw [← hr'] <;> simpa using hs
+    specialize hSmax (y := S \ {r}) (by simp [Submonoid.closure_sdiff_eq_closure this, hSgen])
+      Finset.sdiff_subset
+    simpa using hSmax hrS
+  -- Assume that power is `1`.
+  | 1 =>
+    -- By cancelling on both sides we get `∏ s ∈ S \ {r}, s ^ (m s + n s) = 1`.
+    simp only [hr, pow_one, mul_assoc, eq_comm (a := r), mul_eq_left, LeftCancelMonoid.mul_eq_one,
+      Finset.prod_eq_one_iff] at hr'
+    -- This means, by saliency of `M` that `∏ s ∈ S \ {r}, s ^ m s = ∏ s ∈ S \ {r}, s ^ n s = 1`.
```
Comment (erdOne) [inline Mathlib/Algebra/AffineMonoid/Irreducible.lean]:
```suggestion
    -- This means, by uniqueness of `Mˣ`, that `∏ s ∈ S \ {r}, s ^ m s = ∏ s ∈ S \ {r}, s ^ n s = 1`.
```
Or something better

**Review by erdOne — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by YaelDillies** [comment]
> This is only true for finitely generated R, I suppose?

Do you mean finitely generated `M`? affine -> fg in my nomenclature by definition. Anyway, I have clarified the docstrings so...

bors merge

**Comment by EtienneC30** [comment]
I came across this PR in the thread about the module system so I came to check it out. I am kind of confused: why did you add abbreviations for affine monoids but did not use them?

**Comment by YaelDillies** [comment]
They are niceties to be used downstream of mathlib. I do not yet know how I feel about mathlib itself using them.
